US08426411B2
To a solution of (R)-tert-butyl 3-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate (4.44 g, 8.96 mmol) in 1,4-dioxane (54 mL) was added NaOH (2 N aqueous, 8.9 mL, 18 mmol), and the resulting mixture was heated at about 60° C. for about 3 h. The reaction was cooled to ambient temperature and EtOAc (30 mL) and saturated aqueous NH4Cl (20 mL) were added. The organic layer was separated and the aqueous layer was further extracted with EtOAc (40 mL). The combined organic layers were washed with brine (40 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The material was purified by silica gel chromatography eluting with a gradient of 0-10% MeOH in DCM to afford (R)-tert-butyl 3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate (2.80 g, 92%): LC/MS (Table 1, Method b) Rt=1.85 min; MS m/z: 342 (M+H)+.

reactant | (R)-tert-butyl 3-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate | 8.96 mmol, 4.44 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NC1)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C25H29N5O4S
reactant | NaOH | 18 mmol, 2 N, 8.9 mL | [OH-].[Na+]
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | 1,4-dioxane | 54 mL | O1CCOCC1 | C4H8O2
product | (R)-tert-butyl 3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate | 2.80 g, 92% | C1(=NC=C2N1C1=C(N=C2)NC=C1)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H23N5O2
